US06743814B2
3 g of 4-hydroxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole and 1.5 g of triethylamine were dissolved in 50 ml of dichloromethane, to which a solution of 1 g of acetyl chloride in 20 ml of dichloromethane was added dropwise under ice cooling. After stirring at room temperature for 8 hours, the mixture was washed with water and dried with anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, the residue was treated by column chromatography to obtain 2.7 g of 4-acetoxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole (yield 76.5%). n20D=1.4752.

reactant | 4-hydroxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 3 g | OCC=1N=C(OC1)SCCC(=C(F)F)F | C8H8F3NO2S
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-acetoxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 2.7 g, yield 76.5% | C(C)(=O)OCC=1N=C(OC1)SCCC(=C(F)F)F | C10H10F3NO3S
